US05110956
2-(1,3-Benzodioxol-5-yl)-2-butanol
15 ml of tetrahydrofuran and a catalytic amount of iodine were added to 340 mg of magnesium ribbon to obtain a mixture. 1.59 g of bromoethane was gradually added to the mixture in a stream of nitrogen in such a way that the reaction system was mildly refluxed. The resulting mixture was heated under reflux for 30 minutes and cooled, followed by the addition of a solution of 2 g of 5-acetyl-1,3-benzodioxole in tetrahydrofuran. The obtained mixture was stirred at a room temperature for 20 minutes, followed by the addition of a saturated aqueous solution of ammonium chloride and water. The obtained mixture was extracted with ethyl acetate. The organic layer was washed with a saturated aqueous solution of common salt, dried over anhydrous magnesium sulfate and filtered. The filtrate was distilled to remove the solvent. 2.27 g of the title compound was obtained as a crude oil.

reactant | iodine | II | I2
reactant | magnesium ribbon | 340 mg | [Mg] | Mg
reactant | bromoethane | 1.59 g | BrCC | C2H5Br
reactant | 5-acetyl-1,3-benzodioxole | 2 g | C(C)(=O)C1=CC2=C(OCO2)C=C1 | C9H8O3
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 2-(1,3-Benzodioxol-5-yl)-2-butanol | 2.27 g | O1COC2=C1C=CC(=C2)C(C)(CC)O | C11H14O3
